US07579474B2
4-[4-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-PIPERIDIN-4-OL
To a solution of tert-butyl 4-[4-fluoro-3-(trifluoro-methyl)phenyl]-4-hydroxypiperidine-1-carboxylate (4.25 g, 11.7 mmol) in methylen chloride (30 ml) was added trifluoroacetic acid (4 ml) and the solution was stirred at ambient temperature for 20 h. 1 M aqueous sodium hydroxide (50 ml) was added and the aqueous phase was extracted with methylen chloride (3×50 ml). The combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (ethylacetate/methanol, 1:1) to give the title compound (1.28 g). MS m/z (rel. intensity, 70 eV) 263 (M+, 9), 245 (59), 244 (29), 163 (20), 56 (bp).

reactant | tert-butyl 4-[4-fluoro-3-(trifluoro-methyl)phenyl]-4-hydroxypiperidine-1-carboxylate | 11.7 mmol, 4.25 g | FC1=C(C=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O)C(F)(F)F | C17H21F4NO3
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
solvent | methylen chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-PIPERIDIN-4-OL | 1.28 g | FC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13F4NO
